US07943629B2
N-[2-(5-Bromo-2-chloropyrimidin-4-ylamino)ethyl]acetamide
0.14 ml (1.42 mmol) of N-(2-aminoethyl)acetamide and 0.22 ml (1.60 mmol) of triethylamine are added to a solution of 300 mg (1.32 mmol) of 5-bromo-2,4-dichloro-pyrimidine in 4.2 ml of acetonitrile at room temperature. The mixture is stirred at room temperature for 24 hours and then diluted with ethyl acetate. It is washed with saturated NaCl solution, 10% strength citric acid solution and saturated NaHCO3 solution. The organic phase is dried (Na2SO4), filtered and concentrated. The resulting residue is recrystallized from ethyl acetate. 294 mg (1.00 mmol; yield: 75%) of the product are obtained.

reactant | N-(2-aminoethyl)acetamide | 1.42 mmol, 0.14 ml | NCCNC(C)=O | C4H10N2O
reactant | triethylamine | 1.60 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-2,4-dichloro-pyrimidine | 1.32 mmol, 300 mg | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
solvent | acetonitrile | 4.2 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(5-Bromo-2-chloropyrimidin-4-ylamino)ethyl]acetamide | yield: 75% | BrC=1C(=NC(=NC1)Cl)NCCNC(C)=O | C8H10BrClN4O
